US08242153B2
To a stirred solution of 2-methyl-pent-4-en-2-ol (5.0 g; CAS 624-97-5) in THF (50 ml) were added sequentially 4-dimethylaminopyridine (1.22 g), triethylamine (8.32 ml) and chlorodiphenylphosphine (10.2 ml). The resulting mixture was stirred at room temperature overnight. The reaction mixture was evaporated and purified by column chromatography (basic alumina; gradient: heptane/EtOAc) to give (2-methyl-pent-4-en-2-oxy)diphenylphosphine (8.0 g, 56%) as a colourless oil which was used immediately in the next step.

reactant | 2-methyl-pent-4-en-2-ol | 5.0 g | CC(C)(CC=C)O | C6H12O
reactant | triethylamine | 8.32 ml | C(C)N(CC)CC | C6H15N
reactant | chlorodiphenylphosphine | 10.2 ml | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 1.22 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (2-methyl-pent-4-en-2-oxy)diphenylphosphine | 8.0 g, 56% | CC(C)(CC=C)OP(C1=CC=CC=C1)C1=CC=CC=C1 | C18H21OP
